US05108994
Diethyl 2-hydroxyethylthiomethylphosphonate
Sodium hydride (1.5g, 80%, 50 mmol) was added in portions to a stirred solution of thioethanol (3.9 g, 50 mmol) in dry tetrahydrofuran (50 ml) at room temperature. The mixture was stirred for 0.5 hours then freshly ground and dried potassium iodide (0.5 g, 3.0 mmol) was added, followed by diethylchloromethylphosphonate (9.3 g, 50 mmol) in dry tetrahydrofuran (25 ml) over 5 minutes (exothermic reaction, temperature rose to 50° C.). The reaction mixture was then stirred and heated at 80° C. for 18 hours. The cooled reaction was evaporated to dryness in vacuo, and the residue was purified by column chromatography on silica gel eluting with chloroform, to give the title compound as an oil (8.0 g, 79%); υmax (Film) 3380, 2980, 2900, 2860, 1475 and 1440 cm-1 ; δH (CDCl3) 1.35 (6H, t, J 7Hz, 2 × CH3), 2.80 (2H, d, J 13Hz, PCH2S), 2.87 (2H, t, J 5Hz, SCH2CH2), 3.8 (2H, br s, CH2OH), 3.92 (lH, br s, D2O exchangeable, OH), 4.2 (4H, m, 2 × CH2OP),

reactant | Sodium hydride | 50 mmol, 1.5g | [H-].[Na+]
reactant | thioethanol | 50 mmol, 3.9 g | CCS | C2H6S
reactant | diethylchloromethylphosphonate | 50 mmol, 9.3 g | C(C)OP(OCC)(=O)CCl | C5H12ClO3P
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | potassium iodide | 3.0 mmol, 0.5 g | [I-].[K+]
product | Diethyl 2-hydroxyethylthiomethylphosphonate | 8.0 g, 79% | OCCSCP(OCC)(OCC)=O | C7H17O4PS
